* Norman Koren improved 12AX7 triode model, plate grid cathode
* Source equations/parameters: Glass Audio Vol. 8 No. 5 (1996), updated 2003.
.subckt KOREN_12AX7 P G K
+ params: MU=100 EX=1.4 KG1=1060 KP=600 KVB=300 RGI=2000
+ CCG=2.3p CGP=2.4p CCP=0.9p
E_E1 E1 0 value={V(P,K)/KP*log(1+exp(KP*(1/MU+V(G,K)/sqrt(KVB+V(P,K)*V(P,K)))))}
R_E1 E1 0 1g
G_PLATE P K value={2*pwr(max(V(E1),0),EX)/KG1}
R_CONVERGE P K 1g
C_CG G K {CCG}
C_GP G P {CGP}
C_CP P K {CCP}
R_GRID G GD {RGI}
D_GRID GD K GRID_DIODE
.model GRID_DIODE D(IS=1n RS=1 CJO=10p TT=1n)
.ends KOREN_12AX7
